US07449574B2
Aluminum bromide (0.5 g, 0.0019 mol) was added to a solution of the compound 5a (4.4 g, 0.019 mol) obtained in the above (1) dissolved in trichloroacetonitrile (43 g, 0.298 mol). Dry hydrogen chloride gas was passed through the reaction mixture at −10° C. for 2 hours. Then, the mixture was stirred at room temperature for one day. Trichloroacetonitrile was removed under reduced pressure. The residue was purified by a column (hexane/ethyl acetate=9/1). As a result, the mixture of 2,4-trichloromethyl-(2′-acetylbiphenyl)-6-triazine (5b) and 2,4,6-tris(trichloromethyl)-1,3,5-triazine was obtained. These two products were not separated since they have similar solubility in any solvent.

reactant | trichloroacetonitrile | 0.298 mol, 43 g | ClC(C#N)(Cl)Cl | C2Cl3N
reactant | hydrogen chloride | Cl | ClH
product | 2,4,6-tris(trichloromethyl)-1,3,5-triazine | ClC(C1=NC(=NC(=N1)C(Cl)(Cl)Cl)C(Cl)(Cl)Cl)(Cl)Cl | C6Cl9N3
